US09193723B2
N-(imidazo[1,2-a]pyrazin-6-ylmethyl)-4-[1-(propan-2-ylsulfonyl)piperidin-4-yl]benzamide
The title compound was prepared as described in Example 682, substituting propane-2-sulfonyl chloride for benzenesulfonyl chloride and N-(imidazo[1,2-a]pyrazin-6-ylmethyl)-4-(piperidin-4-yl)benzamide for N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-4-yl)benzamide. 1H NMR (500 MHz, methanol-d4) δ ppm 9.21 (d, J=1.4 Hz, 1H), 8.67 (d, J=1.4 Hz, 1H), 8.22 (d, J=1.6 Hz, 1H), 8.05 (d, J=1.6 Hz, 1H), 7.89-7.82 (m, 2H), 7.40-7.35 (m, 2H), 4.85-4.79 (m, 1H), 4.75 (s, 2H), 3.96-3.85 (m, 2H), 3.12-3.00 (m, 2H), 2.88-2.74 (m, 1H), 1.95-1.85 (m, 2H), 1.84-1.65 (m, 2H), 1.33 (d, J=6.8 Hz, 6H); MS (ESI(+)) m/e 442 (M+H)+.

reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | N-(imidazo[1,2-a]pyrazin-6-ylmethyl)-4-(piperidin-4-yl)benzamide | N=1C=CN2C1C=NC(=C2)CNC(C2=CC=C(C=C2)C2CCNCC2)=O | C19H21N5O
reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-4-yl)benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CCNCC2)=O | C20H22N4O
product | N-(imidazo[1,2-a]pyrazin-6-ylmethyl)-4-[1-(propan-2-ylsulfonyl)piperidin-4-yl]benzamide | N=1C=CN2C1C=NC(=C2)CNC(C2=CC=C(C=C2)C2CCN(CC2)S(=O)(=O)C(C)C)=O | C22H27N5O3S
